US06436923B1
A. 2-(4-Fluorophenyl)-6-phenylmethoxy-1-{4-aminobenzyl}-1,2,3,4-tetrahydroisoquinoline
A solution of 2-(4-fluorophenyl)-6-phenylmethoxy-1-{4-nitrobenzyl}-1,2,3,4-tetrahydroisoquinoline (3 g, 6.4 mmol) and SnCl2.H2O (7.2 g, 32 mmol) in DMF was stirred at room temperature overnight. The solvent was removed and the residue was treated with ethyl acetate (200 ml) and water (200 ml). The organic layer was dried over MgSO4, filtered and concentrated to provide the title compound (2.8 g, 100% yield): ES-MS (m/z) 439 [M+H]+.

reactant | 2-(4-fluorophenyl)-6-phenylmethoxy-1-{4-nitrobenzyl}-1,2,3,4-tetrahydroisoquinoline | 6.4 mmol, 3 g | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)CC1=CC=C(C=C1)[N+](=O)[O-] | C29H25FN2O3
reactant | SnCl2.H2O | 32 mmol, 7.2 g | Cl[Sn]Cl.O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(4-Fluorophenyl)-6-phenylmethoxy-1-{4-aminobenzyl}-1,2,3,4-tetrahydroisoquinoline | 2.8 g, 100% yield | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)CC1=CC=C(C=C1)N | C29H27FN2O
